US04243609
A mixture of 33 g of ethyl 4-amino-2-fluorobenzoate, 44 ml of 1-bromooctane and 0.50 g of copper powder is heated on a steam bath for 19 hours. The mixture is chilled, diluted with ethanol, filtered and the solid washed with cold ethanol and with water to give tan crystals. The filtrate is neutralized with 10 N potassium hydroxide, chilled and filtered and the solid washed with water and with ethanol to give tan crystals. The two crops of crystals are combined and recrystallized from ethanol to yield ethyl 2-fluoro-4-(octylamino)benzoate as a white solid.

reactant | ethyl 4-amino-2-fluorobenzoate | 33 g | NC1=CC(=C(C(=O)OCC)C=C1)F | C9H10FNO2
reactant | 1-bromooctane | 44 ml | BrCCCCCCCC | C8H17Br
reactant | potassium hydroxide | 10 N | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
catalyst | copper | 0.50 g | [Cu] | Cu
product | ethyl 2-fluoro-4-(octylamino)benzoate | FC1=C(C(=O)OCC)C=CC(=C1)NCCCCCCCC | C17H26FNO2
